US08247576B2
49A. (4-Bromo-phenyl)-(4-chloro-phenyl)-methanol
4-Chlorophenylmagnesium bromide (12.97 ml, 1M solution in diethyl ether) was added slowly to a solution of 4-bromobenzaldehyde (2.0 g, 10.81 mmol) in tetrahydrofuran (25 ml) at 0° C., under an atmosphere of nitrogen. The reaction mixture was allowed to warm to room temperature and was stirred for 17 hours. Water (3 ml) was then added and the solvent was removed under reduced pressure. The residue was then partitioned between ethyl acetate and 1N HCl solution. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated. The crude product was then purified by column chromatography (SiO2), eluting with ethyl acetate/petroleum ether (1:9), to yield the title compound (2.30 g). LC/MS: (PS-B3) Rt 3.49 [M−H]+ 297.

reactant | 4-Chlorophenylmagnesium bromide | 1M, 12.97 ml | ClC1=CC=C(C=C1)[Mg]Br
reactant | 4-bromobenzaldehyde | 10.81 mmol, 2.0 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | Water | 3 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (4-Bromo-phenyl)-(4-chloro-phenyl)-methanol | 2.30 g | BrC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)Cl | C13H10BrClO
